US08957074B2
Following general N—C coupling procedure 1, 2-(6-amino-pyridin-3-yl)-1-oxo-2,9-diaza-spiro[5,5]undecane-9-carboxylic acid tert-butyl ester (98 mg, 0.27 mmol) was combined with 2-chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (80 mg, 0.27 mmol) which gave 2[6-(7-cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-1-oxo-2,9-diaza-spiro[5,5]undecane-9-carboxylic acid tert-butyl ester (155 mg) in 92% yield. 1H NMR (400 MHz, CD2Cl2) δ 8.92-8.70 (m, 1H), 8.63-8.53 (m, 1H), 8.25-8.13 (m, 1H), 7.75-7.36 (m, 1H), 6.59-6.46 (m, 1H), 4.93-4.70 (m, 1H), 3.93-3.78 (m 2H), 3.74-3.65 (m, 2H), 3.28-3.18 (m, 2H), 3.14 (s, 6H), 2.65-2.49 (m, 2H), 2.24-1.88 (m, 9H), 1.85-1.71 (m, 2H), 1.65-1.50 (m, 3H), 1.47 (s, 9H); HR-MS m/z 617.3583 (M+H)+

reactant | 2-(6-amino-pyridin-3-yl)-1-oxo-2,9-diaza-spiro[5,5]undecane-9-carboxylic acid tert-butyl ester | 0.27 mmol, 98 mg | C(C)(C)(C)OC(=O)N1CCC2(CCCN(C2=O)C=2C=NC(=CC2)N)CC1 | C19H28N4O3
reactant | 2-chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 0.27 mmol, 80 mg | CN(C(=O)C1=CC2=C(N=C(N=C2)Cl)N1C1CCCC1)C | C14H17ClN4O
product | 2[6-(7-cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-1-oxo-2,9-diaza-spiro[5,5]undecane-9-carboxylic acid tert-butyl ester | 155 mg, 92% yield | C(C)(C)(C)OC(=O)N1CCC2(CCCN(C2=O)C=2C=NC(=CC2)NC=2N=CC3=C(N2)N(C(=C3)C(N(C)C)=O)C3CCCC3)CC1 | C33H44N8O4
